US03931240
a. Methyl 2-(2-methyl-3-benzofuryloxy)-2-methyl-propionate
To a suspension of 9 g of sodium hydride (50 percent in oil) in 150 ml of anhydrous dimethylformamide were added drop-by-drop and while stirring 22.2 g (0.15 mol) of 2-methyl-3-hydroxy-benzofuran, care being taken to maintain the temperature at about 30°-35°C. The reaction medium was stirred for a further 15 minutes and then 27.2 g (0.15 mol) of methyl α-bromoisobutyrate were added, the temperature being maintained at 35°-40°C. Stirring was continued for 24 hours at room temperature, the reaction mixture was poured into water and extracted several times with ether. The ethereal extracts were collected, washed with water and dried over anhydrous sodium sulphate.

reactant | sodium hydride | 9 g | [H-].[Na+]
reactant | 2-methyl-3-hydroxy-benzofuran | 0.15 mol, 22.2 g | CC=1OC2=C(C1O)C=CC=C2 | C9H8O2
reactant | methyl α-bromoisobutyrate | 0.15 mol, 27.2 g | BrC(C(=O)OC)(C)C | C5H9BrO2
reactant | water | O | H2O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | Methyl 2-(2-methyl-3-benzofuryloxy)-2-methyl-propionate | CC=1OC2=C(C1OC(C(=O)OC)(C)C)C=CC=C2 | C14H16O4
